US07589232B2
Step b) Formation of 5-((1-benzothien-2-ylcarbonyl){4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-1-benzothiophene-2-carboxamide and NaOH 5M aq. in the presence of EtOH as a beige powder (37%). 1H NMR (CDCl3/MeOD 35:1, 300 MHz) δ 7.67 (m, 3H), 7.45-7.24 (m, 9H) 7.11 (m, 3H), 6.91 (d, J=9 Hz, 1H) 5.05 (s, 2H), 2.61 (t, J=7.5 Hz, 2H), 1.58 (m, 2H), 1.34 (m, 2H), 0.91 (t, J=7.2 Hz, 3H). M− (ESI): 558.3; M+ (ESI): 560.1 HPLC, Rt: 5.62 min (Purity: 99.2%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-1-benzothiophene-2-carboxamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C=2SC3=C(C2)C=CC=C3)C3=CC2=C(OC(OC2=O)(C)C)C=C3)C=C1 | C38H33NO4S
reactant | NaOH | 5M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-((1-benzothien-2-ylcarbonyl){4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-hydroxybenzoic acid | S1C(=CC2=C1C=CC=C2)C(=O)N(C=2C=CC(=C(C(=O)O)C2)O)CC2=CC=C(C=C2)C#CC2=CC=C(C=C2)CCCC | C35H29NO4S
